US08044041B2
4-(2-Cyano-4-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
A mixture of piperazine-1-carboxylic acid tert-butyl ester (1.05 g, 5.65 mmol), 2-bromo-5-fluoro-benzonitrile (1.13 g, 5.65 mmol), Pd2(dba)3 (259 mg, 0.283 mmol), xanthphos (490 mg, 0.848 mmol), sodium tert-butoxide (1.63 g, 16.95 mmol) in anhydrous 1,4-dioxane (10 ml) was heated at 100-110° C. in a sealed tube for 1 h. After cooled to room temperature, the mixture was filtered through celite then concentrated before purified by chromatography (hexanes/EtOAc) to provide compound as indicated (1.31 g, 76%). m/z (M+1) 306.21.

reactant | piperazine-1-carboxylic acid tert-butyl ester | 5.65 mmol, 1.05 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 2-bromo-5-fluoro-benzonitrile | 5.65 mmol, 1.13 g | BrC1=C(C#N)C=C(C=C1)F | C7H3BrFN
reactant | xanthphos | 0.848 mmol, 490 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 16.95 mmol, 1.63 g | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.283 mmol, 259 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2-Cyano-4-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)F)C#N | C16H20FN3O2
